US08791129B2
2-[2-Amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl (R)-2-amino-3-hydroxypropionate dihydrochloride (“A96”)
1.26 ml of 4N HCl in dioxane are added to 850 mg of 2-[2-amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl 3-(tert-butoxycarbonylmethylamino)propionate in 20 ml of dichloromethane with ice-cooling. The mixture is subsequently stirred at 25° C. for a further 1 h, evaporated to dryness in vacuo and recrystallised from ethanol.

reactant | HCl | 4N, 1.26 ml | Cl | ClH
reactant | 2-[2-amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl 3-(tert-butoxycarbonylmethylamino)propionate | 850 mg | C(C)(C)(C)OC(=O)CNCCC(=O)OCC1=C(C=C(C(=C1)F)F)C=1C=C2C(=NC(=NC2=CC1)N)C(=O)N1CC2=CC=CC=C2C1 | C33H33F2N5O5
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-[2-Amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl (R)-2-amino-3-hydroxypropionate dihydrochloride | Cl.Cl.N[C@@H](C(=O)OCC1=C(C=C(C(=C1)F)F)C=1C=C2C(=NC(=NC2=CC1)N)C(=O)N1CC2=CC=CC=C2C1)CO | InChI=1S/C27H23F2N5O4.2ClH/c28-20-8-17(13-38-26(37)22(30)12-35)18(9-21(20)29)14-5-6-23-19(7-14)24(33-27(31)32-23)25(36)34-10-15-3-1-2-4-16(15)11-34;;/h1-9,22,35H,10-13,30H2,(H2,31,32,33);2*1H/t22-;;/m1../s1
